US06043254
3.2 3-{(Z)-1-[(1-methyl-benzimidazol-6-yl)amino]-1-phenylmethylidene}-2-indolinone
Prepared from 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone and 2 equivalents of 6-amino-1-methyl-benzimidazole, melting point 163-165° C., in DMF followed by treatment with 1N sodium hydroxide solution in MeOH.

reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 6-amino-1-methyl-benzimidazole | 2 equivalents | NC=1C=CC2=C(N(C=N2)C)C1 | C8H9N3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-{(Z)-1-[(1-methyl-benzimidazol-6-yl)amino]-1-phenylmethylidene}-2-indolinone | CN1C=NC2=C1C=C(C=C2)N\C(\C2=CC=CC=C2)=C\2/C(NC1=CC=CC=C21)=O | C23H18N4O
